US04760192
A mixture of 3-hydroxy-5-mesitylcyclohex-2-en-1-one (13.0 g, 0.056 mole), propionic anhydride (26 ml) and propionic acid (26 ml) was stirred and heated at 110° C. until homogeneous. Trifluoromethanesulphonic (0.5 ml) was added and the mixture was heated at 110°-120° C. for 1 hour under an atmosphere of nitrogen. The mixture was poured with stirring into ice-water, neutralized with sodium bicarbonate and then extracted with diethyl ether. The ether extract gave the crude product as a brown oil which was purified by chromatography over silica gel (eluent dichloromethane) to give 3-hydroxy-5-mesityl-2-propionylcyclohex-2-en-1-one (12.5 g, 77%) as a nearly colourless solid, mp 86°-88° C.

reactant | 3-hydroxy-5-mesitylcyclohex-2-en-1-one | 0.056 mole, 13.0 g | OC1=CC(CC(C1)C1=C(C=C(C=C1C)C)C)=O | C15H18O2
reactant | propionic anhydride | 26 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | propionic acid | 26 ml | C(CC)(=O)O | C3H6O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-hydroxy-5-mesityl-2-propionylcyclohex-2-en-1-one | 12.5 g, 77% | OC1=C(C(CC(C1)C1=C(C=C(C=C1C)C)C)=O)C(CC)=O | C18H22O3
